US03932411
5-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
from 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4-(2-methoxyphenyl)-piperazine; yield 78.8% of theory; the hydrochloride, after recrystallization from water and drying, contained 0.486 mol water; m.p. 174°-175°C;

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4-(2-methoxyphenyl)-piperazine | ClCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C14H21ClN2O
reactant | water | 0.486 mol | O | H2O
product | 5-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 78.8% | COC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=C2CCCC(C2=CC=C1)=O | C24H30N2O3
